US05932606
Step B: 1-t-Butoxycarbonylmethyl-4-methyl-5-azidomethylimidazole
A solution of 1-t-butoxycarbonylmethyl-4-methyl-5-hydroxymethylimidazole (4.61 g, 20 mmol) in DMF (100 ml) was cooled to 0° C. and treated sequentially with diphenylphosphoryl azide (5.4 ml, 25 mmol) and DBU (3.7 ml, 25 ml). The resulting solution was allowed to warm gradually to room temperature and was then stirred there overnight. The DMF was rotavapped off, the residue dissolved in a minimum quantity of methylene chloride and the resulting solution diluted several fold with ether and ethyl acetate. This solution was washed sequentially with 1M citric acid, water, 10% sodium carbonate, brine and then dried over magnesium sulfate. Filtration and concentration gave an oil which was purified by flash chromatography (19:1 chloroform/methanol) to give the title compound as an oil: 1H NMR (CDCl3) d 1.48 (s, 9 H), 2.27 (s, 3 H), 4.28 (s, 2 H), 4.56 (s, 2 H), 7.43 (s, 1 H).

reactant | 1-t-butoxycarbonylmethyl-4-methyl-5-hydroxymethylimidazole | 20 mmol, 4.61 g | C(C)(C)(C)OC(=O)CN1C=NC(=C1CO)C | C11H18N2O3
reactant | diphenylphosphoryl azide | 25 mmol, 5.4 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 3.7 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-t-Butoxycarbonylmethyl-4-methyl-5-azidomethylimidazole | C(C)(C)(C)OC(=O)CN1C=NC(=C1CN=[N+]=[N-])C | C11H17N5O2
